US09238640B2
To a solution of IBX (0.93 g, 3.3 mmol) in dimethylsulfoxide (3.5 mL) was added N-(4-hydroxymethyl-2-iodo-phenyl)-acetamide (0.87 g, 3.0 mmol) and the reaction mixture was stirred at room temperature for 1 hour. Water (50 mL) was added and the solid was separated by filtration, and washed with ethyl acetate (20 mL). The filtrate was collected and extracted with ethyl acetate (200 mL). The organic phase was washed with brine (100 mL) and dried over anhydrous Na2SO4. Removal of solvent gave N-(4-formyl-2-iodo-phenyl)-acetamide as a light brown solid. Yield: 0.82 g (95%).

reactant | N-(4-hydroxymethyl-2-iodo-phenyl)-acetamide | 3.0 mmol, 0.87 g | OCC1=CC(=C(C=C1)NC(C)=O)I | C9H10INO2
reactant | Water | 50 mL | O | H2O
solvent | dimethylsulfoxide | 3.5 mL | CS(=O)C | C2H6OS
product | N-(4-formyl-2-iodo-phenyl)-acetamide | C(=O)C1=CC(=C(C=C1)NC(C)=O)I | C9H8INO2
